US06391901B1
Preparation of 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene
By essentially following the proceedure described in Example 16, Part C, the title compound was prepared as an oil starting from 6-benzyloxy-2-dimethylaminobenzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone (Part A) and 1-bromo-4-(triisopropylsilyloxy)benzene in 57% yield following MPLC (SiO2; 10% then 15% then 20% THF with 5% TEA in hexanes).

reactant | 6-benzyloxy-2-dimethylaminobenzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone | N1(CCCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C30H32N2O3S
reactant | 1-bromo-4-(triisopropylsilyloxy)benzene | BrC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C15H25BrOSi
solvent | THF | C1CCOC1 | C4H8O
product | 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene | 57% yield | OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(C=C2)OCCCC#N)C1 | C31H32N2O3S
